US06806277B2
A solution of 19.4 g of (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(t-butyloxycarbonyl)piperidine-3-carboxylic acid (80% content) in 355 cm3 of methanol is cooled to a temperature in the region of −30° C. Thionyl chloride (7.7 cm3)is added with stirring while maintaining the temperature between −25 and −30° C. After the addition, the mixture is maintained in the vicinity of −30° C. for 30 minutes and then the temperature is allowed to return to the vicinity of 20° C. After stirring at ambient temperature for 19 hours, the reaction mixture is concentrated under reduced pressure (5 kPa) at a temperature in the region of 30° C. The residue is taken up in 300 cm3 of water to which 200 cm3 of dichloromethane have been added, and then stirred. The organic phase is separated by settling; the aqueous phase is again extracted with 200 cm3 of dichloromethane. The aqueous solution is brought to pH 8 by gradual addition of solid sodium hydrogen carbonate. After extracting the alkaline solution 3 times with 200 cm3 of dichloromethane, the combined organic extracts are washed 2 times with 200 cm3 of water and then dried over magnesium sulfate. After filtering through a paper filter, the organic solution is concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. to afford 4.51 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate.

reactant | (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]-1-(t-butyloxycarbonyl)piperidine-3-carboxylic acid | 19.4 g | O=C(CC[C@H]1[C@H](CN(CC1)C(=O)OC(C)(C)C)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | C24H30N2O6
reactant | Thionyl chloride | 7.7 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 355 cm3 | CO | CH4O
product | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 4.51 g | O=C(CC[C@H]1[C@H](CNCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C20H24N2O4
